### PR TITLE
[Merged by Bors] - chore(RingTheory/Polynomial): make `Ideal.isPrime_map_C_of_isPrime` an instance

### PR DESCRIPTION
**Pull request by chrisflav**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by erdOne — COMMENTED** [review]
Thanks!
maintainer merge

File: Mathlib/RingTheory/Polynomial/Basic.lean [hunk 1]
```diff
@@ -745,7 +745,7 @@ theorem prime_C_iff : Prime (C r) ↔ Prime r :=
     have := hr.1
     rw [← Ideal.span_singleton_prime] at hr ⊢
     · rw [← Set.image_singleton, ← Ideal.map_span]
-      apply Ideal.isPrime_map_C_of_isPrime hr
+      apply Ideal.isPrime_map_C_of_isPrime
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Polynomial/Basic.lean]: Does `infer_instance` work here?

**Review by riccardobrasca — APPROVED** [review]
Thanks!

bors d+

File: Mathlib/RingTheory/Polynomial/Basic.lean (hunk 1 above)
Comment (chrisflav) [reply Mathlib/RingTheory/Polynomial/Basic.lean]: It does.
